US05599975
Step 35a: 1-(4-bromophenyl)pent-1-ene
52 ml (83.2 mmols) of a 1.6M n-butyllithium solution in hexane are added to a suspension, cooled to -10° C., of 34 g (85.1 mmols) of n-butyltriphenylphosphonium bromide in 150 ml of tetrahydrofuran. After 20 minutes' reaction, the whole is cooled to -80° C. and 50 ml of hexamethylphosphoric triamide are added, as well as 10 g (54 mmols) of 4-bromobenzaldehyde dissolved in 40 ml of tetrahydrofuran. After returning to room temperature and hydrolysis with a saturated ammonium chloride solution, the reaction mixture is extracted with ether. Customary treatment of the organic phase yields 10 g of the expected compound after purification by chromatography on a silica column (eluent: petroleum ether).

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 4-bromobenzaldehyde | 54 mmols, 10 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
catalyst | n-butyltriphenylphosphonium bromide | 85.1 mmols, 34 g | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(4-bromophenyl)pent-1-ene | 10 g, Yield: 82% | BrC1=CC=C(C=C1)C=CCCC | C11H13Br
